US08022062B2
(±)-7-Chloro-6-(2,2,2-trifluoro-1-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Preparation 177 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with (±)-2-[1-methanesulfonyloxy-(2,2,2-trifluoroethyl)]-pyridine. Use a method similar to the General Procedure 1-5, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 373 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-[1-methanesulfonyloxy-(2,2,2-trifluoroethyl)]-pyridine | CS(=O)(=O)OC(C(F)(F)F)C1=NC=CC=C1 | C8H8F3NO3S
product | (±)-7-Chloro-6-(2,2,2-trifluoro-1-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C(F)(F)F)C1=NC=CC=C1 | InChI=1S/C17H16ClF3N2S.ClH/c18-13-5-4-11-6-9-22-10-7-12(11)15(13)24-16(17(19,20)21)14-3-1-2-8-23-14;/h1-5,8,16,22H,6-7,9-10H2;1H
